US09290496B2
Step 2: Preparation of 2-(3-aminophenoxy)-9-isopropyl-N-(1-methyl-1H-pyrazol -4-yl)-9H-purin-6-amine
A mixture of 9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-2-(3-nitrophenoxy)-9H-purin-6-amine (50 mg, 0.14 mmol), Fe (39 mg, 0.7 mmol), NH4Cl (75 mg, 1.4 mmol) in EtOAc (10 mL) and water (10 mL) was stirred at rt overnight. The mixture was filtered and the filtrate was extracted with EtOAc (2×10 mL). The combined organic layers were dried over Na2SO4 and concentrated to give crude product (46 mg, 100% yield), which was used the next step directly without further purification.

reactant | 9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-2-(3-nitrophenoxy)-9H-purin-6-amine | 0.14 mmol, 50 mg | C(C)(C)N1C2=NC(=NC(=C2N=C1)NC=1C=NN(C1)C)OC1=CC(=CC=C1)[N+](=O)[O-] | C18H18N8O3
reactant | NH4Cl | 1.4 mmol, 75 mg | [NH4+].[Cl-]
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | Fe | 0.7 mmol, 39 mg | [Fe] | Fe
product | 2-(3-aminophenoxy)-9-isopropyl-N-(1-methyl-1H-pyrazol -4-yl)-9H-purin-6-amine | 46 mg, 100% yield | NC=1C=C(OC2=NC(=C3N=CN(C3=N2)C(C)C)NC=2C=NN(C2)C)C=CC1 | C18H20N8O
